US08426437B2
This compound is prepared according to synthesis 25, from 150 mg (0.46 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2) and 70 μL (0.55 mmol) of cycloheptylamine. After purification by chromatography on silica gel (dichloromethane/methanol 96/4) then trituration in diethyl ether, 15 mg (8%) of 8-cycloheptylsulfamoyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is obtained in the form of a white solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.46 mmol, 150 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | cycloheptylamine | 0.55 mmol, 70 μL | C1(CCCCCC1)N | C7H15N
product | 8-cycloheptylsulfamoyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 15 mg, 8% | C1(CCCCCC1)NS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3.C(C)C(=O)[O-] | InChI=1S/C18H21N3O3S.C3H6O2/c22-18-17-14(9-10-19-17)15-11-13(7-8-16(15)20-18)25(23,24)21-12-5-3-1-2-4-6-12;1-2-3(4)5/h7-12,19,21H,1-6H2,(H,20,22);2H2,1H3,(H,4,5)/p-1
